US07045544B2
1-(2,6-Difluorobenzyl)-5-nitro-1H-indole-2-carboxylic acid
Under an atmosphere of argon, 5.49 g (83.2 mmol, 85% pure) of potassium hydroxide (powder) are initially charged in 110 ml of dimethyl sulphoxide, 6.43 g (27.5 mmol) of ethyl 5-nitro-1H-indole-2-carboxylate (A. Guy, J.-P. Guetté, Synthesis 1980, 222–223) are added at RT and the mixture is stirred for 30 min. With ice-cooling, at an internal temperature of 5–10° C., 2,6-difluorobenzyl chloride (10.0 g, 61.5 mmol) is then added dropwise over a period of 15 min, and the mixture is stirred at RT for 16 h. For work-up, the mixture is poured into 500 ml of water and acidified with dil. hydrochloric acid and the precipitated solid is filtered off with suction and pre-purified chromatographically on silica gel 60 (mobile phase gradient dichloromethane→dichloromethane-methanol 3:1). The resulting product is recrystallized from ethanol. This gives 4.33 g (47% of theory) of a pale-yellow crystalline solid.

reactant | potassium hydroxide | 83.2 mmol, 5.49 g | [OH-].[K+]
reactant | ethyl 5-nitro-1H-indole-2-carboxylate | 27.5 mmol, 6.43 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | 2,6-difluorobenzyl chloride | 61.5 mmol, 10.0 g | FC1=C(CCl)C(=CC=C1)F | C7H5ClF2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 110 ml | CS(=O)C | C2H6OS
solvent | water | 500 ml | O | H2O
product | 1-(2,6-Difluorobenzyl)-5-nitro-1H-indole-2-carboxylic acid | FC1=C(CN2C(=CC3=CC(=CC=C23)[N+](=O)[O-])C(=O)O)C(=CC=C1)F | C16H10F2N2O4
